US05114940
Activated zinc powder (496 mg), powdered molecular sieve 4A (1.25 g) (ex. BDH) and cuprous chloride (84 mg) were suspended in anhydrous tetrahydrofuran (10 ml). (2E)-10-(2-Quinolinyloxy)dec-2-enal (1 g) was added followed by acetic anhydride (320 μl). The mixture was warmed to 50° under nitrogen and methyl fluorodichloroacetate (328 μl) was added. The mixture was warmed at 50-5° for 4 hours, additional zinc (0.2 g) was added and warming continued for 30 minutes. Upon cooling the reaction mixture was diluted with diethyl ether, filtered through celite and filtrate worked-up in standard fashion. Purification by column chromatography (silica; 4;1, hexane: ether) gave (2Z,4E) methyl 2-fluoro-12-(2-quinolinyloxy)dodeca-2,4-dienoate (0.26 g).

reactant | (2E)-10-(2-Quinolinyloxy)dec-2-enal | 1 g | N1=C(C=CC2=CC=CC=C12)OCCCCCCC/C=C/C=O | C19H23NO2
reactant | acetic anhydride | 320 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl fluorodichloroacetate | 328 μl | FC(C(=O)OC)(Cl)Cl | C3H3Cl2FO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | zinc | 496 mg | [Zn] | Zn
catalyst | zinc | 0.2 g | [Zn] | Zn
product | (2Z,4E) methyl 2-fluoro-12-(2-quinolinyloxy)dodeca-2,4-dienoate | 0.26 g | F\C(\C(=O)OC)=C/C=C/CCCCCCCOC1=NC2=CC=CC=C2C=C1 | C22H26FNO3
